US08486986B2
c) Preparation of 2-(5-bromo-3-chlorothiophen-2-yl)-1-methylethylamine (compound Z2.2)
In a sulfonation flask 5 g (0.028 mol) 2-(3-chlorothiphen-2-yl)-1-methylethylamine is dissolved in 70 ml of acetic acid. The mixture is then cooled to 15° C. and 4.8 g (0.30 m) of bromine is added under stirring (internal temperature 15-17° C.). After warming up to rt, the mixture is stirred for 16 hours. Then the mixture is poured to a mixture of tert. butylmethylether (ca. 250 ml) and 2N sodiumhydroxide. The final pH is 11. After washing with brine, drying with sodium sulphate and evaporation of the solvent the crude material is obtained. Purification is achieved by column chromatography over silicagel (eluent: tert. butylmethylether/EtOH 10:1). Yield: 5.4 g (75% of theory) of a colourless oil (1H-NMR: 1.18/d/3H, 2.68-2.87/m (diasterotopic protons)/2H, 3.2/m/1H, 6.87/s/1H).

reactant | 2-(3-chlorothiphen-2-yl)-1-methylethylamine | 0.028 mol, 5 g | ClC1=C(SC=C1)CC(C)N | C7H10ClNS
reactant | bromine | 4.8 g | BrBr | Br2
reactant | tert. butylmethylether | ca. 250 ml | C(C)(C)(C)OC | C5H12O
reactant | sodiumhydroxide | 2N | [OH-].[Na+]
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 2-(5-bromo-3-chlorothiophen-2-yl)-1-methylethylamine | BrC1=CC(=C(S1)CC(C)N)Cl | C7H9BrClNS
